US05173496
N-(Benzyl)-4-chloro-2-nitrobenzamide (obtained by reaction of benzylamine with 4-chloro-2-nitrobenzoyl chloride) (1.16 g) was dissolved in a mixture of methanol (20 ml) and water (4 ml). Zinc dust (520 mg) was then added in one portion. Ammonium acetate (1.23 g) was then added in portions to the rapidly stirred reaction mixture. After the addition was complete, 2M sodium hydroxide solution (8 ml) was added and the mixture was heated under reflux for 4 hours. The cooled mixture was then concentrated in vacuo to remove methanol and then acidified to pH6 with 2M hydrochloric acid. This mixture was extracted with ethyl acetate. The extracts were washed with brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography using an increasing gradient of ether in methylene chloride to give 1,2-dihydro-2-benzyl-6-chloro-3H-indazol-3-one (Ex. 43) as a solid (0.2 g), m.p. 209-214° C.

reactant | N-(Benzyl)-4-chloro-2-nitrobenzamide | 1.16 g | C(C1=CC=CC=C1)NC(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H11ClN2O3
reactant | Ammonium acetate | 1.23 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | 2M, 8 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
catalyst | Zinc | 520 mg | [Zn] | Zn
product | 1,2-dihydro-2-benzyl-6-chloro-3H-indazol-3-one | 0.2 g | C(C1=CC=CC=C1)N1NC2=CC(=CC=C2C1=O)Cl | C14H11ClN2O
